US08217066B2
Synthesis of [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]methanol
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester (5 g, 16.8 mmol) and lithium borohydride (1.85 g, 84.1 mmol) were combined in EtOH and stirred at 60° C. After aqueous workup, the crude material was purified by silica gel chromatography to give the title compound.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester | 16.8 mmol, 5 g | COC(=O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C12H10BrNO3
reactant | lithium borohydride | 84.1 mmol, 1.85 g | [BH4-].[Li+]
solvent | EtOH | CCO | C2H6O
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]methanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CO | C11H10BrNO2
